US07465726B2
tert-Butyl 4-[4-(1-methyl-6-oxo-5-thiazol-5-yl-1,6-dihydropyridin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate
5-Amino-1-methyl-3-thiazol-5-yl-1H-pyridin-2-one (99.0 mg, 0.478 mmol) was added to a solution of tert-butyl 4-(chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylate (133 mg, 0.398 mmol) in 1-butanol (2.0 L). The reaction was stirred at 120° C. for 15 h. DMF (1.5 mL) was added and the mixture was filtered. The filtrate was purified by HPLC to yield the title compound. 1H-NMR (CD3OD, 400 MHz): δ=1.50 (s, 9H), 2.57 (m, 2H), 3.67 (m, 2H), 3.73 (s, 3H), 4.13 (m, 2H), 6.30 (s, br, 1H), 6.62 (s, 1H), 8.21 (s, 1H), 8.33 (d, J=2.4 Hz, 1H), 8.34 (d, J=2.4 Hz, 1H), 8.47 (s, 1H), 8.99 (s, 1H). MS (ES+): m/z 506.08 [MH+]. HPLC: tR=2.62 min (ZQ2000, polar—5 min).

reactant | 5-Amino-1-methyl-3-thiazol-5-yl-1H-pyridin-2-one | 0.478 mmol, 99.0 mg | NC=1C=C(C(N(C1)C)=O)C1=CN=CS1 | C9H9N3OS
reactant | tert-butyl 4-(chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | 0.398 mmol, 133 mg | ClC=1N=CC2=C(N1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C16H19ClN4O2
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | 1-butanol | 2.0 L | C(CCC)O | C4H10O
product | tert-Butyl 4-[4-(1-methyl-6-oxo-5-thiazol-5-yl-1,6-dihydropyridin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | CN1C=C(C=C(C1=O)C1=CN=CS1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C25H27N7O3S
